US04466974
Preparation of 1,3-bis-(1H-1,2,4-triazol-1-yl) 2-(2,4-dichlorophenyl)-2-methoxycarbonylaminopropane hemihydrate
2-Amino-1,3-bis(1H-1,2,4-triazol-1-yl)-2-(2,4-dichlorophenyl)propane (0.234 g, 0.7 mmole) was added to a suspension of oil-free sodium hydride (27 mg, 1.125 mmole) in dry tetrahydrofuran (5 ml) and the mixture was stirred at room temperature for 1 hour. Methyl chloroformate (0.104 g, 1.1 mmole) was then added and the mixture was stirred at room temperature for 16 hours. The solvent was removed in vacuo and the residue dissolved in chloroform (25 ml) and then washed with water (10 ml). The organic phase was dried (MgSO4), filtered and evaporated and the residue was recrystallized from ethyl acetate to furnish the title compound as a colorless solid (48 mg, 17%), m.p. 171°-2°.

reactant | 2-Amino-1,3-bis(1H-1,2,4-triazol-1-yl)-2-(2,4-dichlorophenyl)propane | 0.7 mmole, 0.234 g | NC(CN1N=CN=C1)(CN1N=CN=C1)C1=C(C=C(C=C1)Cl)Cl | C13H13Cl2N7
reactant | sodium hydride | 1.125 mmole, 27 mg | [H-].[Na+]
reactant | Methyl chloroformate | 1.1 mmole, 0.104 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1,3-bis-(1H-1,2,4-triazol-1-yl) 2-(2,4-dichlorophenyl)-2-methoxycarbonylaminopropane hemihydrate | 48 mg, 17% | O.N1(N=CN=C1)CC(CN1N=CN=C1)(NC(=O)OC)C1=C(C=C(C=C1)Cl)Cl.N1(N=CN=C1)CC(CN1N=CN=C1)(C1=C(C=C(C=C1)Cl)Cl)NC(=O)OC | InChI=1S/2C15H15Cl2N7O2.H2O/c2*1-26-14(25)22-15(5-23-9-18-7-20-23,6-24-10-19-8-21-24)12-3-2-11(16)4-13(12)17;/h2*2-4,7-10H,5-6H2,1H3,(H,22,25);1H2
